US06680316B1
Preparation of 5,6-bis(4-Methoxyphenyl)-2-cyclopropylmethyl-4-(2-pyridylmethylcarbamoyl)-2H-pyridazin-3-one
Using 5,6-bis(4-methoxyphenyl)-4-carboxy-2-cyclopropylmethyl-2H-pyridazin-3-one and 2-(aminomethyl)pyridine as starting materials, the procedures of Example 22 were repeated likewise, whereby the title compound was obtained quantitatively.

reactant | 5,6-bis(4-methoxyphenyl)-4-carboxy-2-cyclopropylmethyl-2H-pyridazin-3-one | COC1=CC=C(C=C1)C1=C(C(N(N=C1C1=CC=C(C=C1)OC)CC1CC1)=O)C(=O)O | C23H22N2O5
reactant | 2-(aminomethyl)pyridine | NCC1=NC=CC=C1 | C6H8N2
product | 5,6-bis(4-Methoxyphenyl)-2-cyclopropylmethyl-4-(2-pyridylmethylcarbamoyl)-2H-pyridazin-3-one | COC1=CC=C(C=C1)C1=C(C(N(N=C1C1=CC=C(C=C1)OC)CC1CC1)=O)C(NCC1=NC=CC=C1)=O | C29H28N4O4
